US08124762B2
Preparation of 1-(4′-diphenylaminobiphenyl-4-yl)-3-dimethylaminoprop-2-en-1-one
1-(4′-Diphenylaminobiphenyl-4-yl)ethanone (1.0 g, 2.75 mmol) was reacted with N,N-dimethylformamide dimethylacetal (1.0 g, 8.25 mmol) for 12 hours at 100° C. Non-reacted N,N-dimethylformamide dimethylacetal was removed using a vacuum pump, and water (50 mL) and dichloromethane (100 mL×2) added. The organic layer was separated, filtered, dried and evaporated to obtain the title compound (1.1 g).

reactant | 1-(4′-Diphenylaminobiphenyl-4-yl)ethanone | 2.75 mmol, 1.0 g | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O)C1=CC=CC=C1 | C26H21NO
reactant | N,N-dimethylformamide dimethylacetal | 8.25 mmol, 1.0 g | COC(N(C)C)OC | C5H13NO2
product | 1-(4′-diphenylaminobiphenyl-4-yl)-3-dimethylaminoprop-2-en-1-one | 1.1 g, Yield 97% | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)C(C=CN(C)C)=O)C1=CC=CC=C1 | C29H26N2O
